US07932282B2
A mixture of 3-methyl-2-oxo-4-imidazolidinecarboxylic acid (86 mg, 0.6 mmol) (prepared as described in Example 28 from 1,1-dimethylethyl 3-methyl-2-oxo-4-imidazolidinecarboxylate, itself prepared as described in step (iii) of Example 13, starting originally from (4S)-2-oxo-3-{[(phenylmethyl)oxy]carbonyl}-4-imidazolidinecarboxylic acid), N-ethyl morpholine (0.380 ml, 3.00 mmol), 1-hydroxybenzotriazole hydrate (110 mg, 0.720 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (138 mg, 0.720 mmol) in dichloromethane (9 ml) was stirred at room temperature for 10 minutes, under an argon atmosphere. {[2-Fluoro-3-(trifluoromethyl)phenyl]methyl}amine (0.1 ml, 0.684 mmol) was added and the reaction was stirred overnight under an argon atmosphere. The reaction mixture was diluted with dichloromethane (10 ml) and the solution was washed with saturated sodium hydrogen carbonate solution (10 ml), water (10 ml), citric acid solution (10 ml) and brine (10 ml). The citric acid layer was re-extracted with dichloromethane and the dichloromethane extracts were combined, dried and evaporated. The residue was purified by mass-directed automated HPLC. Fractions containing product were collected and the solvent was evaporated in vacuo to give N-{[2-fluoro-3-(trifluoromethyl)phenyl]methyl}-3-methyl-2-oxo-4-imidazolidinecarboxamide (16 mg, 8% yield) as a white solid. LC/MS [M+H]+=320, retention time=1.85 minutes.

reactant | 3-methyl-2-oxo-4-imidazolidinecarboxylic acid | 0.6 mmol, 86 mg | CN1C(NCC1C(=O)O)=O | C5H8N2O3
reactant | 1,1-dimethylethyl 3-methyl-2-oxo-4-imidazolidinecarboxylate | CN1C(NCC1C(=O)OC(C)(C)C)=O | C9H16N2O3
reactant | (4S)-2-oxo-3-{[(phenylmethyl)oxy]carbonyl}-4-imidazolidinecarboxylic acid | O=C1NC[C@H](N1C(=O)OCC1=CC=CC=C1)C(=O)O | C12H12N2O5
reactant | N-ethyl morpholine | 3.00 mmol, 0.380 ml | C(C)N1CCOCC1 | C6H13NO
reactant | 1-hydroxybenzotriazole hydrate | 0.720 mmol, 110 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.720 mmol, 138 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | {[2-Fluoro-3-(trifluoromethyl)phenyl]methyl}amine | 0.684 mmol, 0.1 ml | FC1=C(C=CC=C1C(F)(F)F)CN | C8H7F4N
solvent | dichloromethane | 9 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-{[2-fluoro-3-(trifluoromethyl)phenyl]methyl}-3-methyl-2-oxo-4-imidazolidinecarboxamide | 16 mg, 8% yield | FC1=C(C=CC=C1C(F)(F)F)CNC(=O)C1N(C(NC1)=O)C | C13H13F4N3O2
